US07071208B2
A mixture of 8-bromo-3-(2-methyl-2-nitropropyl)imidazo[1,2-a]pyridine (1.5 g, 5.0 mmol), Pd(PPh3)4 (0.68 g), 2M aqueous sodium carbonate solution (8 ml), and dioxane (68 ml) is stirred for 30 minutes under an atmosphere of argon. After addition of thiophene-2-boronic acid (0.96 g, 7.5 mmol), the mixture is stirred overnight at 80° C. The solids are removed by filtration, and the residue is chromatographed (silica gel, dichloromethane/ethanol 95:5) to give 1.52 g of 3-(2-methyl-2-nitropropyl)-8-(2-thienyl)imidazo[1,2-a]pyridine (100%).

reactant | 8-bromo-3-(2-methyl-2-nitropropyl)imidazo[1,2-a]pyridine | 5.0 mmol, 1.5 g | BrC=1C=2N(C=CC1)C(=CN2)CC(C)([N+](=O)[O-])C | C11H12BrN3O2
reactant | sodium carbonate | 2M, 8 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | thiophene-2-boronic acid | 7.5 mmol, 0.96 g | S1C(=CC=C1)B(O)O | C4H5BO2S
catalyst | Pd(PPh3)4 | 0.68 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | 68 ml | O1CCOCC1 | C4H8O2
product | 3-(2-methyl-2-nitropropyl)-8-(2-thienyl)imidazo[1,2-a]pyridine | 1.52 g, 100% | CC(CC1=CN=C2N1C=CC=C2C=2SC=CC2)(C)[N+](=O)[O-] | C15H15N3O2S
